US04406909
29.7 g (0.55 mol) of sodium methylate were dissolved in 500 ml of methanol, and 70.4 g (0.55 mol) of 4-chlorophenol were added, while stirring. Afteer stirring the mixture for 10 minutes, the solvent was distilled off under reduced pressure and the residue was taken up in 100 ml of glycol. This solution was added to a solution of 135 g (0.5 mol) of 2,2-dimethyl-1-tosyloxy-butan-3-one in 200 ml of glycol. The mixture was stirred at 100° to 120° C. for 48 hours and cooled and the reaction mixture was stirred into 2,000 ml of water. The mixture was extracted twice with 250 ml of diethyl ether each time and the combined organic phases were washed three times with 100 ml of water each time, once with 100 ml of 10% strength sodium hydroxide solution and once more with 100 ml of water, dried over sodium sulphate and distilled. 62.9 g (55.7% of theory) of 1-(4-chlorophenoxy)-2,2-dimethyl-butan-3-one of boiling point 135°-140° C./0.4 mm Hg were obtained.

reactant | sodium methylate | 0.55 mol, 29.7 g | C[O-].[Na+]
reactant | 4-chlorophenol | 0.55 mol, 70.4 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 2,2-dimethyl-1-tosyloxy-butan-3-one | 0.5 mol, 135 g | CC(COS(=O)(=O)C1=CC=C(C)C=C1)(C(C)=O)C | C13H18O4S
reactant | water | 2,000 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 1-(4-chlorophenoxy)-2,2-dimethyl-butan-3-one | 62.9 g, 55.7% | ClC1=CC=C(OCC(C(C)=O)(C)C)C=C1 | C12H15ClO2
